US08912180B2
To a solution of trans-N-{4-[2-(difluoromethyl)-6-methyl-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}cyclohexane-1,4-diamine (50 mg) in methylene chloride (1 mL) were added triethylamine (46 μL) and 4-chlorobutyryl chloride (16 mg), followed by stirring for 1 hour in a water bath. The reaction solution was concentrated under reduced pressure and to the residue were added tetrahydrofuran (5 mL) and 60% sodium hydride (13 mg), followed by stirring at 0° C. for 30 minutes and at room temperature for 1 hour. To the reaction solution was added water, followed by extraction with ethyl acetate, and the extracts were washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and then the solvent was evaporated under reduced pressure. The residue was purified by amino silica gel column chromatography (hexane:ethyl acetate=50:50-0:100 and chloroform:methanol=100:0-90:10) to obtain 1-[trans-4-({4-[2-(difluoromethyl)-6-methyl-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)cyclohexyl]pyrrolidin-2-one (40 mg).

reactant | trans-N-{4-[2-(difluoromethyl)-6-methyl-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}cyclohexane-1,4-diamine | 50 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CC[C@H](CC1)N)C=C(C=C2)C)F | C23H29F2N7O
reactant | triethylamine | 46 μL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | 16 mg | ClCCCC(=O)Cl | C4H6Cl2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[trans-4-({4-[2-(difluoromethyl)-6-methyl-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)cyclohexyl]pyrrolidin-2-one | 40 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CC[C@H](CC1)N1C(CCC1)=O)C=C(C=C2)C)F | C27H33F2N7O2
